US07557112B2
3.65 ml of THF solution with 1.0M diisobutylaluminum hydride was added dropwise under ice cooling into a mixture of 400 mg of ethyl 4-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]piperazine-2-carboxylate and 10 ml of THF and the resultant was stirred for 3 hours at room temperature. After 10 ml of 1M HCl aq was added to the reaction mixture and stirred for 10 minutes at room temperature, 20 ml of 1M NaOH aq was added and extracted with chloroform. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform-MeOH) to give an oily substance. After the obtained oily substance was dissolved in 10 ml of THF and 1 ml of 4M HCl-dioxane solution was added, the resultant was concentrated under reduced pressure to give a solid. This solid washed with EtOH-ether to give 60 mg of {4-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]piperazine-2-yl}methanol dihydrochloride.

reactant | diisobutylaluminum hydride | 1.0M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 4-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]piperazine-2-carboxylate | 400 mg | ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CC(NCC2)C(=O)OCC)F | C19H17ClF2N4O2S
reactant | HCl | 1M, 10 ml | Cl | ClH
reactant | NaOH | 1M, 20 ml | [OH-].[Na+]
reactant | HCl dioxane | 4M, 1 ml | Cl.O1CCOCC1
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 3.65 ml | C1CCOC1 | C4H8O
product | {4-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]piperazine-2-yl}methanol dihydrochloride | 60 mg | Cl.Cl.ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CC(NCC2)CO)F | InChI=1S/C17H15ClF2N4OS.2ClH/c18-11-6-12(19)10(5-13(11)20)16-22-14-1-4-26-15(14)17(23-16)24-3-2-21-9(7-24)8-25;;/h1,4-6,9,21,25H,2-3,7-8H2;2*1H
